datasets/RMG-dataset.csv
rxn,Ea
[C:0]([C:1]([C:2]([H:11])([H:12])[H:13])([C:3]([C:4]([H:15])([H:16])[H:17])([O:5][O:6])[H:14])[H:10])([H:7])([H:8])[H:9].[C:18]([C:19]([C:20]([C:21]([H:29])([H:30])[H:31])([C:22]([H:32])([H:33])[H:34])[H:28])([H:26])[H:27])([H:23])([H:24])[H:25]>>[C:0]([C:1]([C:2]([H:11])([H:12])[H:13])([C:3]([C:4]([H:15])([H:16])[H:17])([O:5][O:6][H:29])[H:14])[H:10])([H:7])([H:8])[H:9].[C:18]([C:19]([C:20]([C:21]([H:30])[H:31])([C:22]([H:32])([H:33])[H:34])[H:28])([H:26])[H:27])([H:23])([H:24])[H:25],85.47912
[C:0]([C:1]([C:2]([H:10])([H:11])[H:12])([C:3]([C:4]([C:5](=[C:6]([H:18])[H:19])[H:17])([H:15])[H:16])([H:13])[H:14])[H:9])([H:7])[H:8]>>[C:0]1([H:7])([H:8])[C:1]([C:2]([H:10])([H:11])[H:12])([H:9])[C:3]([H:13])([H:14])[C:4]([H:15])([H:16])[C:5]([H:17])[C:6]1([H:18])[H:19],24.2672
[C:0]([C:1]([C:2]([H:13])([H:14])[H:15])([c:3]1[c:4]([H:16])[c:5]([H:17])[c:6]([H:18])[c:7]([H:19])[c:8]1[H:20])[H:12])([H:9])([H:10])[H:11].[C:21]([S:22][H:25])([H:23])[H:24]>>[C:0]([C:1]([C:2]([H:13])([H:14])[H:15])[c:3]1[c:4]([H:16])[c:5]([H:17])[c:6]([H:18])[c:7]([H:19])[c:8]1[H:20])([H:9])([H:10])[H:11].[H:12][C:21]([S:22][H:25])([H:23])[H:24],19.6648
[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])[C:4](=[C:5]([H:13])[H:14])[H:12])[H:8])([H:6])[H:7].[C:15]([C:16](=[C:17]([C:18]([H:24])([H:25])[H:26])[H:23])[H:22])([H:19])([H:20])[H:21]>>[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])([C:4](=[C:5]([H:13])[H:14])[H:12])[C:16]([C:15]([H:19])([H:20])[H:21])([C:17]([C:18]([H:24])([H:25])[H:26])[H:23])[H:22])[H:8])([H:6])[H:7],73.0108
[C:0](#[C:1][C:2]=[C:3]([H:5])[H:6])[H:4].[S:7]=[C:8]([C:9]([S:10][H:14])([H:12])[H:13])[H:11]>>[C:0](#[C:1][C:2](=[C:3]([H:5])[H:6])[H:12])[H:4].[S:7]=[C:8]([C:9]([S:10][H:14])[H:13])[H:11],10.46
[C:0](=[C:1]=[C:2]([C:3]([H:7])([H:8])[H:9])[H:6])([H:4])[H:5].[C:10]([c:11]1[c:12]([H:19])[c:13]([H:20])[c:14]([H:21])[c:15]([H:22])[c:16]1[H:23])([H:17])[H:18]>>[C:0](=[C:1]([C:2]([C:3]([H:7])([H:8])[H:9])[H:6])[C:10]([c:11]1[c:12]([H:19])[c:13]([H:20])[c:14]([H:21])[c:15]([H:22])[c:16]1[H:23])([H:17])[H:18])([H:4])[H:5],44.7688
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([H:23])([H:24])[H:25])([H:21])[H:22])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10].[O:26][O:27]>>[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([H:23])([H:24])[H:25])([H:21])[H:22])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])[H:12])([H:8])([H:9])[H:10].[H:11][O:26][O:27],199.11656
[C:0](#[C:1][C:2]([H:4])[H:5])[H:3].[c:6]1([H:12])[c:7]([H:13])[c:8]([H:14])[c:9]([H:15])[c:10]([H:16])[c:11]1[H:17]>>[C:0](#[C:1][C:2]([H:4])([H:5])[H:12])[H:3].[c:6]1[c:7]([H:13])[c:8]([H:14])[c:9]([H:15])[c:10]([H:16])[c:11]1[H:17],134.265
[C:0](#[C:1][C:2](=[C:3]([C:4]([H:8])([H:9])[H:10])[H:7])[H:6])[H:5].[C:11](=[C:12]([C:13]([C:14](=[C:15]([H:21])[H:22])[H:20])[H:19])[H:18])([H:16])[H:17]>>[C:0](#[C:1][C:2]([C:3]([C:4]([H:8])([H:9])[H:10])[H:7])([H:6])[C:13]([C:12](=[C:11]([H:16])[H:17])[H:18])([C:14](=[C:15]([H:21])[H:22])[H:20])[H:19])[H:5],71.2117
[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:16])[H:17])[H:15])=[C:5]([c:6]1[c:7]([H:19])[c:8]([H:20])[c:9]([H:21])[c:10]([H:22])[c:11]1[H:23])[H:18])[H:14])([H:12])[H:13].[C:24]([C:25]([H:28])([H:29])[H:30])([H:26])[H:27]>>[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:16])[H:17])[H:15])[C:5]([c:6]1[c:7]([H:19])[c:8]([H:20])[c:9]([H:21])[c:10]([H:22])[c:11]1[H:23])([H:18])[C:24]([C:25]([H:28])([H:29])[H:30])([H:26])[H:27])[H:14])([H:12])[H:13],14.8114
[C:0](#[C:1][C:2]([C:3]([H:10])([H:11])[H:12])=[C:4]([C:5](=[C:6]([H:14])[H:15])[H:13])[C:7](=[C:8]([H:17])[H:18])[H:16])[H:9].[C:19](=[C:20]([H:22])[H:23])[H:21]>>[C:0](#[C:1][C:2]([C:3]([H:10])([H:11])[H:12])([C:4]([C:5](=[C:6]([H:14])[H:15])[H:13])[C:7](=[C:8]([H:17])[H:18])[H:16])[C:19](=[C:20]([H:22])[H:23])[H:21])[H:9],-1.4644
[N:0]([O:1][H:3])[H:2].[O:4][O:5][H:6]>>[N:0]([O:1][H:3])([H:2])[H:6].[O:4][O:5],-6.6944
[c:0]1[c:1]([H:6])[c:2]([H:7])[c:3]([H:8])[c:4]([H:9])[c:5]1[H:10].[c:11]1[c:12]([H:17])[c:13]([H:18])[c:14]([H:19])[c:15]([H:20])[c:16]1[H:21]>>[c:0]1(-[c:11]2[c:12]([H:17])[c:13]([H:18])[c:14]([H:19])[c:15]([H:20])[c:16]2[H:21])[c:1]([H:6])[c:2]([H:7])[c:3]([H:8])[c:4]([H:9])[c:5]1[H:10],0.0
[C:0](=[C:1]([C:2](=[O:3])[H:7])[H:6])([H:4])[H:5].[H:8]>>[C:0](=[C:1]([C:2]([O:3][H:8])[H:7])[H:6])([H:4])[H:5],20.92
[C:0]([S:1][C:2]([H:5])([H:6])[H:7])([H:3])[H:4]>>[C:0]([S:1])([C:2]([H:5])([H:6])[H:7])([H:3])[H:4],190.372
[C:0]([C:1]([C:2]([H:14])([H:15])[H:16])=[C:3]([C:4]([H:17])([H:18])[H:19])[c:5]1[c:6]([H:20])[c:7]([H:21])[c:8]([H:22])[c:9]([H:23])[c:10]1[H:24])([H:11])([H:12])[H:13].[C:25](=[C:26]([H:28])[H:29])[H:27]>>[C:0]([C:1]([C:2]([H:14])([H:15])[H:16])[C:3]([C:4]([H:17])([H:18])[H:19])([c:5]1[c:6]([H:20])[c:7]([H:21])[c:8]([H:22])[c:9]([H:23])[c:10]1[H:24])[C:25](=[C:26]([H:28])[H:29])[H:27])([H:11])([H:12])[H:13],21.7986
